US08669234B2
To 3-Bromo-6H-benzo[c]chromene-8-carboxylic acid (0.5 mmol) was added a solution of oxalyl chloride in DCM (2.0 N, 5 ml, 10 mmol). The mixture was heated at 45° C. for 2 hours and cooled to 25° C. Excess reagents and solvent were removed under reduced pressure and co-evaporated with toluene. To the solution of above residue in DCM (5 ml) at 0° C. trimethylsilyldiazomethane (2.0 N, 0.75 ml, 1.5 mmol) was added dropwise. The mixture was stirred at 25° C. for 12 hours and was concentrated. The residue was dissolved in EtOAc and was cooled to 0° C. To above solution HBr/HOAc (0.28 ml, 1.5 mmol) was added dropwise. The mixture was stirred at 25° C. for 1 hour. Solid sodium bicarbonate was added and the mixture was stirred for 30 minutes. The mixture was diluted with EtOAc, and was washed with water and brine and was dried with Na2SO4. Concentration gave 2-Bromo-1-(3-bromo-6H-benzo[c]chromen-8-yl)-ethanone, which was used for next step without purification.

reactant | 3-Bromo-6H-benzo[c]chromene-8-carboxylic acid | 0.5 mmol | BrC1=CC=C2C3=C(COC2=C1)C=C(C=C3)C(=O)O | C14H9BrO3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trimethylsilyldiazomethane | 1.5 mmol, 2.0 N, 0.75 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | HBr HOAc | 1.5 mmol, 0.28 ml | Br.CC(=O)O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 10 mmol, 2.0 N, 5 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-1-(3-bromo-6H-benzo[c]chromen-8-yl)-ethanone | BrCC(=O)C=1C=CC2=C(COC3=CC(=CC=C23)Br)C1 | C15H10Br2O2
